US07220861B2
3.0 g of (+) ethyl 2-(2,4-dichloro-3-nitro-5-fluorobenzoyl)-3-[(1-acetoxyprop-2(S)-yl)amino]acrylate was dissolved in 15 ml of acetonitrile under heating to 75˜80° C. 2.12 g (1.5 eq.) of K3PO4 was added in portions to the reaction mixture, which was then stirred at the same temperature for 1.5 hours. The reaction mixture was filtered under a reduced pressure and washed with 60 ml of dichloromethane. The filtrate was concentrated under a reduced pressure. The resulting residue was dissolved in 50 ml of dichloromethane and then washed with water. The organic layer was concentrated under a reduced pressure to give 2.64 g of (−) ethyl N-(acetoxy-prop-2(S)-yl)-6-fluoro-7-chloro-8-nitro-4-quinolone-3-carboxylate (Yield: 95.7%)

reactant | (+) ethyl 2-(2,4-dichloro-3-nitro-5-fluorobenzoyl)-3-[(1-acetoxyprop-2(S)-yl)amino]acrylate | 3.0 g | ClC1=C(C(=O)C(C(=O)OCC)=CN[C@H](COC(C)=O)C)C=C(C(=C1[N+](=O)[O-])Cl)F | C17H17Cl2FN2O7
reactant | K3PO4 | 2.12 g, 1.5 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | ethyl N-(acetoxy-prop-2(S)-yl)-6-fluoro-7-chloro-8-nitro-4-quinolone-3-carboxylate | Yield: 95.7% | C(C)(=O)OC[C@H](C)N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])Cl)F)=O)C(=O)OCC | C17H16ClFN2O7
